US07956064B2
In a closed vial, methyl 3-(methylsulfonyl)-5-(phenylamino)pyrimido[4,5-c]quinoline-8-carboxylate (1.0 eq, 62 mg, 0.152 mmol) was mixed with Methylamine hydrochloride (100 mg), DIEA (260 ul) in DMF (1 ml). The mixture was stirred at 60° C. for 40 min. Addition of water induced precipitation of methyl 3-(methylamino)-5-(phenylamino)pyrimido[4,5-c]quinoline-8-carboxylate which was isolated by filtration. This material was suspended in a 1:1:1 mixture of THF, MeOH and water (4 ml), and vigorously stirred at 60° C. in the presence of LiOH (200 mg) for 1.5 hours. Water aqueous HCl were added and to reach pH=1. The solid was filtered, dried and triturated in AcOEt/hexanes to provide 3-(methylamino)-5-(phenylamino)pyrimido[4,5-c]quinoline-8-carboxylic acid as a yellow solid (40 mg, 74% yield). LCMS (ES): >95% pure, m/z 346 [M+1]+.

reactant | methyl 3-(methylsulfonyl)-5-(phenylamino)pyrimido[4,5-c]quinoline-8-carboxylate | 0.152 mmol, 62 mg, 1.0 eq | CS(=O)(=O)C=1N=CC2=C(C(=NC=3C=C(C=CC23)C(=O)OC)NC2=CC=CC=C2)N1 | C20H16N4O4S
reactant | Methylamine hydrochloride | 100 mg | Cl.CN
reactant | DIEA | 260 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH | 200 mg | [Li+].[OH-]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | water | 4 ml | O | H2O
solvent | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(methylamino)-5-(phenylamino)pyrimido[4,5-c]quinoline-8-carboxylic acid | 40 mg, 74% yield | CNC=1N=CC2=C(C(=NC=3C=C(C=CC23)C(=O)O)NC2=CC=CC=C2)N1 | C19H15N5O2
